US07964732B2
Step CA5D: 2-(1-methylcyclopropyl)quinoline-6-carboxylic Acid
A solution of Methyl-2-(1-methylcyclopropyl)quinoline-6-carboxylate (225 mg, 0.93 mmol) and 2M sodium hydroxide solution (2 ml. 4 mmol) in methanol (10 ml) was heated at 60° C. for 2 hours. After the solvent was evaporated in vacuo, the residue was dissolved in water. The aqueous solution was neutralized with 2M hydrochloric acid solution (2 ml) and the precipitated white solid was extracted with ethyl acetate (×3). The combined solution was washed with brine, dried over sodium sulfate and concentrated in vacuo to give crude white solid, which was recrystallized from ethyl acetate and hexane to furnish the title compound (177 mg, 84%) as a white solid. MS (ESI): m/z 228.15 [M+H]+, 226.13 [M−H]−.

reactant | Methyl-2-(1-methylcyclopropyl)quinoline-6-carboxylate | 0.93 mmol, 225 mg | COC(=O)C=1C=C2C=CC(=NC2=CC1)C1(CC1)C | C15H15NO2
reactant | sodium hydroxide | 4 mmol, 2M, 2 ml | [OH-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | 2-(1-methylcyclopropyl)quinoline-6-carboxylic Acid | 177 mg, 84% | CC1(CC1)C1=NC2=CC=C(C=C2C=C1)C(=O)O | C14H13NO2
